US08536185B2
Preparation of 2-phenyl-5-(5-(pyridin-3-yl)-1H-1,2,4-triazol-3-yl)pyrimidine
2-Phenyl-pyrimidine-5-carbonitrile (Biofine International, 0.20 g, 1.10 mmol) and nicotinic hydrazide (Aldrich, 0.151 g, 1.10 mmol) were dissolved in o-xylene (5 mL) and heated to 200° C. under nitrogen atmosphere for seven hours as the o-xylene slowly boiled off. The remaining crude solid was dissolved in a minimal amount of 98:2 v/v dichloromethane-methanol and purified by flash silica column chromatography. Elution through a 40-g Analogix® flash silica cartridge with 100% dichloromethane to 5% methanol in dichloromethane afforded the title compound as a yellow solid (32 mg, 10% yield); Rf 0.27 with 95:5 v/v dichloromethane-methanol; melting point 322-333° C.; 1H-NMR (400 MHz; CDCl3) δ 9.53 (s, 2H), 9.32 (d, 1H), 8.76-8.75 (m, 1H), 8.53-8.46 (m, 3H), 7.64-7.60 (m, 4H); MS (ESI+) m/z 301.1 (M+1); H-PGDS FPBA IC50: 1 μM.

reactant | 2-Phenyl-pyrimidine-5-carbonitrile | 1.10 mmol, 0.20 g | C1(=CC=CC=C1)C1=NC=C(C=N1)C#N | C11H7N3
reactant | nicotinic hydrazide | 1.10 mmol, 0.151 g | C(C1=CN=CC=C1)(=O)NN | C6H7N3O
solvent | o-xylene | 5 mL | CC=1C=CC=CC1C | C8H10
solvent | dichloromethane methanol | ClCCl.CO
product | 2-phenyl-5-(5-(pyridin-3-yl)-1H-1,2,4-triazol-3-yl)pyrimidine | 32 mg, 10% yield | C1(=CC=CC=C1)C1=NC=C(C=N1)C1=NNC(=N1)C=1C=NC=CC1 | C17H12N6
